US07595319B2
4-Bromo-N-[(1R)-2-hydroxy-1-methylethyl]benzenesulfonamide
(2R)-2-Aminopropan-1-ol (2.0 g, 26.7 mmol) and N-ethyl-N,N-diisopropylamine (8.5 mL, 48.9 mmol) was added dropwise over 20 min to a cooled (0° C.) solution of 4-bromobenzenesulfonyl chloride (6.12 g, 24 mmol) in methylene chloride (20 mL). The reaction mixture was allowed to stir for 1 h. Water was added and the mixture was washed, twice, with HCl (aq, 1 M) and one time with saturated aqueous sodium hydrogen carbonate. The organic phase was dried over sodium sulfate and evaporated to give 6.8 g, (96% yield) of the title compound: 1H NMR (CD3OD, 400 MHz) δ 7.82 (d, J=8 Hz, 2H), 7.76 (d, J=8 Hz, 2H), 3.44 (m, 1H), 3.34 (m, 3H), 1.03 (d, J=7 Hz, 3H); MS (ESI) m/z (M++1); 13C NMR (CD3OD, 100 MHz) 142.42, 133.36, 129.74, 127.90, 66.81, 52.49, 17.94

reactant | (2R)-2-Aminopropan-1-ol | 26.7 mmol, 2.0 g | N[C@@H](CO)C | C3H9NO
reactant | N-ethyl-N,N-diisopropylamine | 48.9 mmol, 8.5 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-bromobenzenesulfonyl chloride | 24 mmol, 6.12 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | Water | O | H2O
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-Bromo-N-[(1R)-2-hydroxy-1-methylethyl]benzenesulfonamide | 96% yield | BrC1=CC=C(C=C1)S(=O)(=O)N[C@@H](CO)C | C9H12BrNO3S
